US04028084
(a) N-(4-methylbenzyl)-2-cyanoacetamide
A solution of 93 g. (0.825 mole) of ethyl cyanoacetate and 100 g. (0.825 mole) of 4-methylbenzylamine in 150 ml. of 2-methoxyethanol is refluxed for 2 hr. After cooling the solid product is isolated by vacuum filtration, washed with pentane and dried to give 90 g. (57.6%) of amide as a white solid: m.p. 124°-6° C.; ν 3220 (NH), 2230 (CN), and 1630 cm.-1 (C=O) δ 8.77 broad, 1H, NH); 7.17 (s, 4H, phenyl protons), 4.28 (d, 2H, benzyl methylene), 3.67 (s, 2H, CH2CO), and 2.28 (s, 3H, CH3).

reactant | ethyl cyanoacetate | 0.825 mole | C(#N)CC(=O)OCC | C5H7NO2
reactant | 4-methylbenzylamine | 0.825 mole | CC1=CC=C(CN)C=C1 | C8H11N
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | N-(4-methylbenzyl)-2-cyanoacetamide | CC1=CC=C(CNC(CC#N)=O)C=C1 | C11H12N2O
